data/specific_train_final.csv
"[H:20][O:21][O].CC(CO[O:10])O>>[H:20][O:10]OCC(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC1(C=C[CH:21]=[CH:20]C1O)O[O:10]>>CCCC12C=C[CH:21][CH:20](C1O)[O:10]O2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:6][C:5]([CH2:4][O:3][O:2][H:1])[C:7]([CH3:11])([CH2:9][OH:10])[OH:8]>>[H:6][C:5]1([CH2:4][O:3]1)[C:7]([CH3:11])([CH2:9][OH:10])[OH:8].[H:1][O:2] 5-3,5; 3,2-3,5; 3,2-2",Room Temperature,Propagation,retroaddition
C1=C(C)C=C(C)C=C1CC[O].[O:20][N:10]=O>>C1=C(C)C=C(C)C=C1CC[O].[O-:20][N+:10]=O 10-20,Room Temperature,Propagation,ha resonance
"[H:13][O:12].[H:1][O:2][O:3][CH:4]([CH2:10][OH:11])[C:5]([CH3:9])[CH2:6][O:7][O:8]>>[H:13][O:12][C:5]([CH3:9])([CH2:6][O:7][O:8])[CH:4]([CH2:10][OH:11])[O:3][O:2][H:1] 5-5,12; 12-5,12",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)(CO)O[O:20])C.[N:10]=O>>CC1(C2CCC(C1C2)(CO)O[O:20][N:10]=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"COCO[O:20].[N:10]=O>>COCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:8][C:7](=[C:2]([CH3:1])[C:3]([H:4])[CH2:5][Cl:6])[H:9]>>[H:8][C:7]([H:9])[C:2](=[C:3]([H:4])[CH2:5][Cl:6])[CH3:1] 3-3,2; 2,7-3,2; 2,7-7",Room Temperature,Propagation,resonance
"[H:14][O:13][O:12][O:11][O:10][C:9](=[O:15])[CH:8]=[C:2]([CH3:1])[CH2:3][O:4][N+:5](=[O:7])[O-:6]>>[H:14][O:13][O:12][O:11].[CH3:1][C:2](=[CH:8][C:9](=[O:15])[O:10])[CH2:3][O:4][N+:5](=[O:7])[O-:6] 11,10-11; 11,10-10",Room Temperature,Initiation,homolyze
"[H:20][CH:21](C(C)Cl)Cl.[OH:10]>>[H:20][OH:10].CC([CH:21]Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C([O:20][O:21][O])Cl)O[N+](=O)[O-]>>C(C([O:20])Cl)O[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:15][O:14][O:13].[CH3:7][C:4]([CH2:3][O:2][OH:1])([CH:8]([CH:11]=[O:12])[O:9][O:10])[O:5][OH:6]>>[H:15][O:10][O:9][CH:8]([CH:11]=[O:12])[C:4]([CH3:7])([CH2:3][O:2][OH:1])[O:5][OH:6].[O:13][O:14] 10-10,15; 14,15-10,15; 14,15-14",Room Temperature,Propagation,abstraction
"CC1(C2CC1C(C(C2)O)(C)[O:20][O:21]N=O)C>>CC1(C2CC1C(C(C2)O)(C)[O:20])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][C:2](=[O:12])[CH:3]=[CH:4][CH:5]1[C:7]([O:6]1)([CH3:8])[C:9](=[O:11])[CH3:10].[OH:13]>>[CH3:1][C:2](=[O:12])[CH:3]([CH:4][CH:5]1[C:7]([O:6]1)([CH3:8])[C:9](=[O:11])[CH3:10])[OH:13] 13-13,3; 3,4-13,3; 3,4-4",Room Temperature,Propagation,addition
"[H:20][O:21][O].C(C(Cl)Cl)O[O:10]>>[H:20][O:10]OCC(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:6][O:5][O:4][CH:3][C:2]([CH3:1])([CH2:8][O:9][N+:10](=[O:12])[O-:11])[OH:7]>>[H:6][O:5].[CH3:1][C:2]([CH2:8][O:9][N+:10](=[O:12])[O-:11])([CH:3]=[O:4])[OH:7] 4,5-3,4;4,5-5;3-3,4",Room Temperature,Propagation,retroaddition
"CC(CO)(C(CO[O:20])O)O[N+](=O)[O-].[N:10]=O>>CC(CO)(C(CO[O:20][N:10]=O)O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(C)C(C)CO[O:10]>>[H:20][O:10]OCC(C)C(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:12][CH2:11][C:5]1=[CH:4][C:3]([CH:8]([C:7](=[CH:6]1)[CH3:10])[OH:9])[CH2:2][CH3:1].[O:13][O:14]>>[CH3:12][CH2:11][C:5]1=[CH:4][C:3]([CH:8]([C:7](=[CH:6]1)[CH3:10])[OH:9])([CH2:2][CH3:1])[O:13][O:14] 13-3,13; 3-3,13",Room Temperature,Termination,recombine
"CC(C)CCC(C)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)CCC(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"COC(CO)O[O:20].[N+](=O)([O-])[O:10]>>COC(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(CO[O:10])O[N+](=O)[O-]>>[H:20][O:10]OCC(CC)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]([CH2:12][OH:13])([C:3]([CH3:10])([CH2:4][O:5][N+:6](=[O:8])[O-:7])[OH:9])[O:11]>>[H:1][O:13][CH2:12].[CH3:10][C:3]([CH2:4][O:5][N+:6](=[O:8])[O-:7])([CH:2]=[O:11])[OH:9] 11-11,2; 12,2-11,2; 12,2-12",Room Temperature,Propagation,retroaddition
"CC1=C[C:21](=[C:20](C(C1O[O:10])O[N+](=O)[O-])C)O>>CC1=C[C:21]([C:20]2(C(C1O[O:10]2)O[N+](=O)[O-])C)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][C:21](C)(C)C1=CC=CC=C1.[OH:10]>>[H:20][OH:10].C[C:21](C)C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:10]CCC(=O)C.[O:20][O]>>C[CH:10](CCC(=O)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[CH:10]OCCO.[O:20][O]>>C[CH:10](OCCO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C)(C)O[O:20])O.[N:10]=O>>CC(C(C)(C)O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:7][C:6]1=[CH:5][CH:4]=[C:3]([CH:9]=[CH:8]1)[CH2:2][O:1].[N:11](=[O:12])[O:10]>>[CH3:7][C:6]1=[CH:5][CH:4]=[C:3]([CH:9]=[CH:8]1)[CH2:2][O:1].[N+:11](=[O:12])[O-:10] 11-10,Room Temperature,Propagation,ha resonance
